data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21](C)C(O)OC1=CC=C2C(=C1)C3=C(C4=C(C=CN=C4)C(=C3N2C)C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)OC(O)[O:21]C 10=20;20,21=21
[CH:11]1=[CH:10]OC(=C1)S(=O)(=O)O.[N+:20](=O)=[O:21]>>C1=C(O[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])S(=O)(=O)O 10,11=10,20;20,21=21
[H:20][OH2+:21].CCC(N)(O)[OH:10]>>[H:20][OH+:10]C(CC)(N)O.[OH2:21] 10=20;20,21=21
CC1[CH:20]([O:21]1)CCCC[O-:10]>>CC([CH:20]1CCCC[O:10]1)[O-:21] 10=20;20,21=21
CC(C)(C)[Si](C)(C)OC1CC2CC(O[C:11](C3=C(CC(C1)O2)C=CC=C3OC)([O-:12])[O:10][C:20](=[NH+:21]C4CCCCC4)NC5CCCCC5)CC=C.CN(C)C1=CC=[NH+]C=C1>>C1CCC(CC1)N[C:20](=[O:10])[NH:21]C2CCCCC2.CC(C)(C)[Si](C)(C)OC1CC2CC(O[C:11](=[O:12])C3=C(CC(C1)O2)C=CC=C3OC)CC=C.CN(C)C1=CC=[NH+]C=C1 10,11=10,20;20,21=21;12=11
CC1(CC[C+:20]1S[C:11]2=[CH:10]C=CC=C2)COC3=CC=C(C=C3)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CC1(CC[C:20]12[CH:10]3C=CC=C[C+:11]3S2)COC4=CC=C(C=C4)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20
[H:20][CH:21](C)[CH:22](C)[O:23]S(=O)(=O)C(F)(F)F.CC[O-:10]>>C(F)(F)(F)S(=O)(=O)[O-:23].C[CH:21]=[CH:22]C.[H:20][O:10]CC 10=20;22,23=23;20,21=21,22
[H:20][O+:21](N=C(C)C1=CN=CC=C1)S(=O)(C2=CC=C(C=C2)C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)([O-])([O:21]N=C(C)C2=CN=CC=C2)Cl 10=20;20,21=21
C[CH:20]=[NH+:21]C.[Cl-:10]>>C[CH:20]([NH:21]C)[Cl:10] 10=20;20,21=21
[H:20][O:21]C(=O)C.C1=CC2=C(C=C1)[N:10]=C(N2)S(=O)CC3=NC=CC=C3>>[H:20][N+:10]1=C(NC2=C1C=CC=C2)S(=O)CC3=NC=CC=C3.CC(=O)[O-:21] 10=20;20,21=21
COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)C2[S+](C)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C>>COC(=O)C1C2CCN(CCC3=C1N(C4=C3C=CC=C4)C(=O)OC)C(=O)C2[S+](C)O[C:20](=[O:10])C(F)(F)F.C(=O)(C(F)(F)F)[O-:21].CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C 10=20;20,21=21
C[N+:21](=[C:20](O)OC)C.[OH2:10]>>C[N:21](C)[C:20]([OH2+:10])(O)OC 10=20;20,21=21
[H:20][NH+:21](CC1=CC=CC=C1)C2(CCCCCCC2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CCCC(CCC1)([NH:21]CC2=CC=CC=C2)O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCSC[CH:10]=[C:11]=[NH:12]>>[H:20][CH:10](CSCC)[C:11]#[NH+:12].OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[C-:10]#N.[CH:20](=[NH2+:21])C#N.O>>C(#N)[CH:20]([C:10]#N)[NH2:21].O 10=20;20,21=21
CC[CH:20]=[N+:21](C1=CC=CC=C1)C(=O)OCC2=CC=CC=C2.C[Si](C)(C)C[C:11]#[CH:10]>>CC[CH:20]([CH:10]=[C+:11]C[Si](C)(C)C)[N:21](C1=CC=CC=C1)C(=O)OCC2=CC=CC=C2 10,11=10,20;20,21=21
CC(=NO[C:20](C)([O-:10])[O:21]C(=O)C)C>>CC(=NO[C:20](=[O:10])C)C.CC(=O)[O-:21] 10=20;20,21=21
C[C:10]#[C:11]C[Si](C)(C)C.C1CC(=O)[NH+:21]=[CH:20]1.[B-](OCC)(F)(F)F>>C[C:10](=[C+:11]C[Si](C)(C)C)[CH:20]1CCC(=O)[NH:21]1.[B-](OCC)(F)(F)F 10,11=10,20;20,21=21
CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.O[S+:20](=O)=O>>CCO[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[S:20](=O)(=O)O 10,11=10,20;12,13=11,12
[Li-:10]([N+:11](C1CCCC1C(=O)OC)(C(C)C)C(C)C)Br>>[Li:10]Br.CC(C)[N:11](C1CCCC1C(=O)OC)C(C)C 10,11=11
[H:20][O+:21](C(C(C(C=CC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)OCC2=CC=CC=C2)C3(C(OC4(O3)CCCC4)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.C1=CC=[N:10]C=C1.CC(=O)[O-]>>[H:20][N+:10]1=CC=CC=C1.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]C(C(C(C=CC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)OCC4=CC=CC=C4)C5(C(OC6(O5)CCCC6)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC(=O)C.CC(=O)[O-] 10=20;20,21=21
C[C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1.C(=O)(O)O[K]>>C[C:20](=[O:10])OC.C1=CC=C(C=C1)[O-:21].C(=O)(O)O[K] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(=O)CCC(C)([OH:10])OCC>>[H:20][OH+:10]C(C)(CCC(=O)OCC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC(=O)C1=C[CH:10]=[CH:11]O1.[Br:20][Br:21]>>CC(=O)C1=C[CH:10]([CH+:11]O1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CCOC(=O)CC[CH2:20][Br:21].C1=CC(=CC(=C1)C#N)[O-:10].[HH].[Na+]>>CCOC(=O)CC[CH2:20][O:10]C1=CC(=CC=C1)C#N.[Br-:21].[HH].[Na+] 10=20;20,21=21
CC1(C2C[CH2:10][C:11]1([CH:20](C2)[OH2+:21])C)C.O>>C[C+:11]1[CH:20]2[CH2:10]CC(C2)C1(C)C.[OH2:21].O 10,11=10,20;20,21=21
CN1C2=C(C=CC=C2)C3=CC(=CC=C31)[OH+:21][CH:20]([OH:10])OC.O>>CN1C2=C(C=CC=C2)C3=CC(=CC=C31)[OH:21].CO[CH:20]=[OH+:10].O 10=20;20,21=21
CC1CCC(CC(=C1)[O+]([Si](C)(C)C)[Zn:20]I)I.[I-:10]>>CC1CCC(CC(=C1)[O+]([Si](C)(C)C)[Zn-:20](I)[I:10])I 10=20,
[H:20][CH:21](C)[S+:22](C1=CC=CC=C1)OC(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[CH:21]=[S:22](C1=CC=CC=C1)OC(=O)C(F)(F)F 10=20;20,21=21,22
C[C:10]1(C=CC(O1)C2(C(=O)OC3C2(OCC3O)O)O)[OH2+:11]>>C[C+:10]1C=CC(O1)C2(C(=O)OC3C2(OCC3O)O)O.[OH2:11] 10,11=11
CCC(C)[O:11][Si-:10](C)(C)(C)F>>CCC(C)[O-:11].C[Si:10](C)(C)F 10,11=11
[H:20][S+:21]1CCSC1(C)C.OS(=O)(=O)[O-:10]>>CC1(SCC[S:21]1)C.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
CN(C)[C:20]([O-:10])(OC)[O:21]C>>CN(C)[C:20](=[O:10])OC.C[O-:21] 10=20;20,21=21
C[C:20](=[O:21])C1=CC=C(C=C1)I.[CH2:10]=[C:11](C1=CC=C(C=C1)I)[O-:12]>>C[C:20]([CH2:10][C:11](=[O:12])C1=CC=C(C=C1)I)(C2=CC=C(C=C2)I)[O-:21] 10,11=10,20;20,21=21;12=11
C1=CC=C(C=C1)[N:21]=[N+:20]=[N-:10].CN(C)P1OC2=C(O1)C=CC=C2>>C1=CC=C(C=C1)[N-:21][N+:20]#[N:10].CN(C)P1OC2=C(O1)C=CC=C2 10=20;20,21=21
